2182-04-03 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2182-4-2**] 10:30 PM
   admit at 2200
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendPrednisone
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2182-4-3**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 93 (89 - 119) bpm
   BP: 129/58(76) {102/47(65) - 129/69(103)} mmHg
   RR: 30 (17 - 33) insp/min
   SpO2: 93%
             Total In:
                                                                     18 mL
                                                                  1,488 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                     18 mL
                                                                  1,438 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    355 mL
   Urine:
                                                                    105 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,087 mL
                                                                  1,133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (460 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 24%
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: ///31/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   11.1 g/dL
   105 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   10 mg/dL
   106 mEq/L
   143 mEq/L
   35.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2182-4-3**]  02:51 AM
   WBC
   4.1
   Hct
   35.8
   Plt
   174
   Cr
   0.7
   Glucose
   105
   Imaging: [**4-2**] CXR: New right middle lobe opacities consistent with
   pneumonia versus
   aspiration.
   Microbiology: [**4-2**] BCx: NGTD
   Assessment and Plan
   This is a 78 yo woman with history of SCLC [**2150**] s/p partial lobectomy,
   COPD, PEs s/p IVC filter, HL, s/p cerebral hemorrhage, gait disturbance
   who presenting with 3 days of chest congestion and productive cough;
   with CXR concerning for new RML pnuemonia.
   .
   # Dyspnea:  History and physical exam most concerning for new
   pneumonia, possibly with mild COPD exacerbation as a consequence.  With
   h/o of PE, but history inconsistent.  Could also consider influenza but
   no fever, N/V, diarrhea or HA.  No sick contacts beyond daughter with
   URI.  Last Spirometry [**2173**] with FEV1/FVC 53.  Will hold steroids given
   h/o psychosis as is doing well on BiPAP and risks likely outweigh
   benefits at this time.
    - CAP treatment: Azithromycin, Ceftriaxone
    - Scheduled Ipratroprium / Albuterol
    - Albuterol PRN
    - BiPAP overnight, supplemental O2 PRN
    - Sputum culture
    - Follow-up blood cultures
   - Will try Guaifenescin +/- Mucomyst today for sputum production with
   coughing (symptomatic relief)
   # Anxiety:
   - Will hold off on sedating medications
   - Very sparing Morphine PRN if anxiety worsens
   # Tachycardia. Likely multifactorial including Albuterol, anxiety and
   possibly dehydration.  Patient with flat neck veins.  No PO intake
   since day prior.
    - IVF overnight
    - Monitor for now
   # H/o Depression. Continue Nortriptylline
   # Hyperlipidemia.  Stable. Continue Statin.
   # Osteoporosis.  Continue on Vitamin D and Calcium.
   # Constipation.  On Colace as outpatient.  Will continue.
   # Code: DNR/I
   .
   FEN: IVF maintainance for now / replete PRN / Swallow trial at bedside
   and consider Speech and Swallow PRN
   Ppx: Heparin SC
   Communication: Patient and HCP, daughter, [**Name (NI) 391**] [**Known lastname 192**], RN,
   [**Telephone/Fax (1) 11157**]
   CODE: DNR/DNI (confirmed on admission)
   Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-2**] 11:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2182-04-05 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2182-4-4**] 10:15 AM
 NON-INVASIVE VENTILATION - STOP [**2182-4-4**] 11:06 AM
   - Changed to thickened liquids as not PO'ing otherwise and she seems to
   only have trouble w/thin liquids
   - KUB: large amount of stool ascending colon, wnl. advanced bowel reg.
   - Low urine output, 500cc bolus slowly.
   - 2230: pt oriented to name, place, [**Last Name (un) **], +/- date ([**2176-3-29**]), no
   complaints, enjoying olympics
   History obtained from Patient
   Allergies:
   History obtained from PatientPrednisone
   Lightheadedness
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Ativan (Oral) (Lorazepam)
   Drowsiness/Fati
   Last dose of Antibiotics:
   Ceftriaxone - [**2182-4-4**] 10:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-4-4**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Dyspnea significantly improved
   Flowsheet Data as of  [**2182-4-5**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 81 (81 - 117) bpm
   BP: 106/49(64) {105/42(44) - 141/104(109)} mmHg
   RR: 20 (19 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    590 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    400 mL
   Urine:
                                                                    860 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 399 (399 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.39/51/61/33/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   178 K/uL
   9.9 g/dL
   113 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.7 mEq/L
   13 mg/dL
   102 mEq/L
   142 mEq/L
   30.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2182-4-3**]  02:51 AM
                             [**2182-4-4**]  10:32 AM
                             [**2182-4-4**]  01:25 PM
                             [**2182-4-5**]  04:23 AM
   WBC
   4.1
   4.4
   Hct
   35.8
   32.1
   30.5
   Plt
   174
   178
   Cr
   0.7
   0.7
   TCO2
   32
   Glucose
   105
   113
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Imaging: [**4-4**] KUB: 1. Large amount of stool within the colon,
   predominantly within the ascending colon.
   2. Multiple nondistended air-filled loops of small and large bowel,
   within
   normal limits.
   [**4-5**] CXR: Pending
   Microbiology: [**4-2**] BCx: NGTD x2
   Assessment and Plan
   78 yo woman with history of SCLC [**2150**] s/p partial lobectomy, COPD, PEs
   s/p IVC filter, HL, s/p cerebral hemorrhage, gait disturbance who
   presenting with 3 days of chest congestion and productive cough; with
   CXR concerning for new RML pnuemonia; transferred to floor [**4-3**], now
   with worsening respiratory fatigue prompting return to the MICU.
   .
   # Chest congestion, SOB.  With PNA, concern for continued COPD
   exacerbation, respiratory fatigue. Respiratory status has significantly
   improved, now breathing comfortably and satting well on low flow nasal
   cannula.
    - CAP treatment: Azithromycin, Ceftriaxone (started [**4-2**])
    - Scheduled Ipratroprium / Albuterol
    - Albuterol PRN
    - O2 via nasal cannula; if required, consider positive pressure
   ventilation
    - Follow-up blood cultures
    - C/w pulmicort, monitor closely for altered MS given history of
   psychosis with steroids
   # Somnolence: Easily arousable this morning. Mental status improved
   significantly with flumazenil yesterday, suggestive of
   benzodiazepine-induced altered MS. [**Name13 (STitle) 83**] signs of respiratory
   distress/fatigue today.
    - C/w supplemental O2
    - Noninvasive mask-ventilation for respiratory rest
   # Anemia: Hct > 37 on admission.  Unclear recent baseline.  No obvious
   bleeding sources, but continues to have Hct ~30. Has not required
   transfusion.
    - Repeat PM Hct, active T&C
    - Guaiac stools
    - If worsened, would add labs for lysis
    - Touch base with PCP [**Last Name (NamePattern4) **]. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 253**] RE: recent baseline
   # Colonic distension: KUB revealing large amt stool in ascending colon.
   No report of BM since admission and with chronic constipation (takes
   colace as outpatient).  Also with numerous intervals of NIV with
   possibility of pushing gas into stomach.
    - C/w aggressive bowel regimen
    - Monitor abdominal exam
   # H/o Depression. Continue Nortriptylline
   # Hyperlipidemia.  Stable. Continue Statin.
   # Osteoporosis.  Continue on Vitamin D and Calcium.
   # Code: DNR/I
   .
   FEN: IVF boluses PRN / replete lytes PRN / Thickened liquid diet given
   difficulty swallowing
   Ppx: Pneumoboots; subcutaneous heparin
   Communication: Patient and HCP, daughter, [**Name (NI) 391**] [**Known lastname 192**], RN,
   [**Telephone/Fax (1) 11157**]
   CODE: DNR/DNI (confirmed on admission)
   Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-4**] 10:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: